* C:\Users\Ryan Smith\Documents\LTspiceXVII\CCLK_XOR.asc
V1 SCNT_b 0 PWL(0 0 200n 5)
V2 N003 0 PULSE(0 5 1u 20n 20n 2u 4u)
R1 CLK N003 220
C1 N005 CLK 200p
D1 0 N005 1N4148
R2 N005 0 1k
XU1 N005 N006 VCC 0 74HCT14 VCC=5 SPEED=1.0 TRIPDT=1e-9
R3 N007 N006 1k
C2 0 N007 100p
XU2 N007 TP6 VCC 0 74HCT14 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 CQ_b CQ_c CQ_d CQ_e CQ_f CQ_g CQ_h 0 SCNT_b CQ_a 0 TP8 0 CLK TP5 NC_01 74HC590
XU4 N013 TP5 VCC 0 74HCT14 VCC=5 SPEED=1.0 TRIPDT=1e-9
R5 N013 0 5.6k
D2 N015 N013 1N4148
R6 N015 0 5.6k
C3 N015 SCNT_b 200p
D3 XOR_out N013 1N4148
XU6 CQ_a SCNT_b N001 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU7 CQ_b SCNT_b N004 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU8 CQ_c 0 N008 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU9 CQ_d 0 N009 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU10 CQ_e 0 N012 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU11 CQ_f 0 N014 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU12 CQ_g 0 N016 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU13 CQ_h 0 N017 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
D4 N001 N002 1N4148
D5 N004 N002 1N4148
D6 N008 N002 1N4148
D7 N009 N002 1N4148
D8 N012 N002 1N4148
D9 N014 N002 1N4148
D10 N016 N002 1N4148
D11 N017 N002 1N4148
R8 N002 0 5.6k
XU14 N002 XOR_out VCC 0 74HCT14 VCC=5 SPEED=1.0 TRIPDT=1e-9
R9 N011 N010 1k
C4 0 N011 200p
XU5 N011 TP9 VCC 0 74HCT14 VCC=5 SPEED=1.0 TRIPDT=1e-9
D12 TP6 TP8 1N4148
D13 TP9 TP8 1N4148
XU15 XOR_out N010 VCC 0 74HCT14 VCC=5 SPEED=1.0 TRIPDT=1e-9
R4 TP8 0 5.6k
.model D D
.lib C:\Users\Ryan Smith\Documents\LTspiceXVII\lib\cmp\standard.dio
* All named nodes also test points
* Replace with T1 from\nstartup sequence
.tran 18u
.lib 74HC.lib
.lib 74HC590.sub
.lib 74hct.lib
.backanno
.end
